* test.xlsx plan bench (chopped AFE, OTA-level, 1 kHz chop, TT)
* Modes: static DC / sine / square. Params: VOFF (DC), FSIG, CFB (feedback cap), WAVE
.lib /Users/noah/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include eeg_tg_lowq.spice
.include eeg_pseudo_res.spice
.include eeg_fd_ota_core_soft.spice
.include eeg_bias_gen.spice
.include eeg_fd_ota_chopped_full2.spice
.param VDD=1.80 VCM=0.9 TCHOP=1m VOFF=0 FSIG=4 CFB=1p AMP=10m
VDD_SRC VDD18 0 {VDD}
VREF VCM_REF 0 {VCM}
VPHI PHI 0 PULSE(0 {VDD} 50n 20n 20n 499.85u {TCHOP})
VPHIB PHIB 0 PULSE(0 {VDD} 500.05u 20n 20n 499.85u {TCHOP})
BNPHI NPHI 0 V={VDD}-v(PHI)
BNPHIB NPHIB 0 V={VDD}-v(PHIB)
* input: DC offset + optional AC (WAVE=sin -> SIN, else PULSE square)
VSIGP SIGP 0 PULSE({VCM-AMP} {VCM+AMP} 0 100n 100n 0.125 0.25)
VSIGN SIGN 0 PULSE({VCM+AMP} {VCM-AMP} 0 100n 100n 0.125 0.25)
CINP SIGP INP 32p
CINN SIGN INN 32p
CFP OUTN INP {CFB}
CFN OUTP INN {CFB}
RBIASP INP VCM_REF 1T
RBIASN INN VCM_REF 1T
XPRP INP VCM_REF eeg_pseudo_res
XPRN INN VCM_REF eeg_pseudo_res
VRST RST 0 PULSE({VDD} 0 5m 100n 100n 1 1)
BRSTN NRST 0 V={VDD}-v(RST)
XRSTP INP VCM_REF RST NRST VDD18 0 eeg_tg_lowq
XRSTN INN VCM_REF RST NRST VDD18 0 eeg_tg_lowq
XAFE INP INN VCM_REF OUTP OUTN PHI NPHI PHIB NPHIB PHI NPHI PHIB NPHIB VDD18 0 eeg_fd_ota_chopped_full2
CLOADP OUTP 0 5p
CLOADN OUTN 0 5p
.nodeset v(INP)=0.9 v(INN)=0.9 v(XAFE.INP_M)=0.9 v(XAFE.INN_M)=0.9 v(XAFE.N1P)=0.932 v(XAFE.N1N)=0.932 v(XAFE.N2P)=0.932 v(XAFE.N2N)=0.932 v(XAFE.VBP1)=0.6155 v(XAFE.VBP2)=0.3848 v(OUTP)=0.9267 v(OUTN)=0.9267
.control
set noaskquit
save time v(OUTP) v(OUTN) i(VDD_SRC)
tran 100n 0.65s
wrdata ../results/xlsx_sq_x32_4.csv time v(OUTP) v(OUTN)
quit
.endc
.end
